US07579473B2
To a mixture of 4-(6,7-dimethoxy-2-methyl-quinazolin-4-yloxy)-phenylamine (0.100 g, 0.321 mmol) and 1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarboxylic acid (0.056 g, 0.386 mmol) in DMF was added DIEA (0.168 mL, 0.963 mmol), followed by HATU (0.183 g, 0.482 mmol). The reaction mixture was stirred at RT for 15 hours. The mixture was diluted with EtOAc, washed with 5% LiCl aq solution three times, dried over Na2SO4, and concentrated in vacuo. The crude product was purified on preparative HPLC to give ′N-(4-fluorophenyl)-N′-(4-{[2-methyl-6,7-bis(methyloxy)quinazolin-4-yl]oxy}phenyl)cyclopropane-1,1-dicarboxamide (3.2 mg) as a white solid. 1H NMR (DMSO-d6) 10.15 (bs, 1H), 10.01 (bs, 1H), 7.69-7.75 (m, 2H), 7.61-7.68 (m, 2H), 7.52 (s, 1H), 7.32 (s, 1H), 7.23-7.29 (m, 2H), 7.12-7.19 (m, 2H), 3.93 (d, 6H), 2.43 (s, 3H), 1.53 (s, 4H).

reactant | 4-(6,7-dimethoxy-2-methyl-quinazolin-4-yloxy)-phenylamine | 0.321 mmol, 0.100 g | COC=1C=C2C(=NC(=NC2=CC1OC)C)OC1=CC=C(C=C1)N | C17H17N3O3
reactant | 1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarboxylic acid | 0.386 mmol, 0.056 g | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | DIEA | 0.963 mmol, 0.168 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.482 mmol, 0.183 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(4-fluorophenyl)-N′-(4-{[2-methyl-6,7-bis(methyloxy)quinazolin-4-yl]oxy}phenyl)cyclopropane-1,1-dicarboxamide | 3.2 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)OC1=NC(=NC2=CC(=C(C=C12)OC)OC)C | C28H25FN4O5
